US08835444B2
Step 1: 1-Pyridin-3-yl-butane-1,3-dione
A cooled (0° C.) solution of ethyl nicotinate (3.00 g, 2.71 ml, 19.65 mmol) in THF (10 ml) was treated with sodium hydride (60%, 1.572 g, 39.3 mmol) followed by the dropwise addition of a solution of acetone (2.282 g, 39.3 mmol, 2.89 ml) in THF (10 ml). The mixture was heated at reflux for 3 hours and then allowed to cool to RT. The mixture was acidified to ˜pH5 with 2M HCl and partitioned between EtOAc and water. The organic phase was separated and washed with water, brine, dried (MgSO4) filtered and the solvent was removed in vacuo. Purification by chromatography on silica eluting with iso-hexane/EtOAc afforded the titled compound; 1H NMR (CDCl3, 400 MHz) δ 15.97 (1H, s), 9.10 (1H, s), 8.78 (1H, d), 8.22 (1H, d), 7.49 (1H, t), 6.21 (1H, s), 2.25 (3H, s). LCMS Rt=1.13 mins; [M+H]+ 164.21 Method LowpH_v002.

reactant | ethyl nicotinate | 19.65 mmol, 2.71 ml, 3.00 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | sodium hydride | 39.3 mmol, 1.572 g | [H-].[Na+]
reactant | acetone | 39.3 mmol, 2.89 ml, 2.282 g | CC(=O)C | C3H6O
reactant | HCl | 2M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Pyridin-3-yl-butane-1,3-dione | N1=CC(=CC=C1)C(CC(C)=O)=O | C9H9NO2
